US07906546B2
300 mg (2.54 mmol) of amino-hydroxyimino-acetic acid methyl ester and 428 mg (2.29 mmol, 0.9 eq) of phenylsulfanyl-acetyl chloride were stirred in 10 mL of THF at RT for 1 hour. The solvent was evaporated, the residue dissolved in dioxane, and the reaction mixture was heated at reflux over night in the presence of molecular sieves. Filtration, concentration under vacuum and column chromatography over silica gel with EtOAc/heptane 1:1 yielded 310 mg (49%) of 5-phenylsulfanylmethyl-[1,2,4]oxadiazole-3-carboxylic acid methyl ester as light yellow oil, MS: 268 (MNH4+).

reactant | amino-hydroxyimino-acetic acid methyl ester | 2.54 mmol, 300 mg | COC(C(=NO)N)=O | C3H6N2O3
reactant | phenylsulfanyl-acetyl chloride | 2.29 mmol, 428 mg, 0.9 eq | C1(=CC=CC=C1)SCC(=O)Cl | C8H7ClOS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-phenylsulfanylmethyl-[1,2,4]oxadiazole-3-carboxylic acid methyl ester | 310 mg, 49% | COC(=O)C1=NOC(=N1)CSC1=CC=CC=C1 | C11H10N2O3S
